US08420640B2
A solution of N-benzyl-5-bromo-2-nitrobenzenamine (100 mg, 0.32 mmol) and 1-(piperazin-1-yl)ethanone (83 mg, 0.65 mmol) in NMP (1 mL) was heated to 110° C. for 16 h, cooled then diluted with H2O (15 mL) and extracted with ethyl acetate (2×15 mL). The organics were washed with brine (8 mL), dried (Na2SO4) then filtered and concentrated in vacuo. The residue was subjected flash silica column chromatography (100% ethyl acetate) to furnish 1-(4-(3-(benzylamino)-4-nitrophenyl)piperazin-1-yl)ethanone (mg, 0.22 mmol) as a yellow solid (71 mg, 0.19 mmol) 61% yield. 1H NMR (500 MHz, DMSO-D6) d (ppm) 8.83 (m, 1H), 7.93 (d, J=9.5 Hz, 1H), 7.39 (m, 4H), 7.28 (m, 1H), 6.40 (dd, J=2.5 Hz, 10 Hz, 1H), 5.96 (d, J=2.5 Hz, 1H), 4.58 (d, J=6 Hz, 2H) 3.50-3.29 (m, 8H), 2.34 (s, 3H).+ESI HRMS (calcd for C19H22N4NaO3, M+Na) 377.1590, found 377.1584

reactant | N-benzyl-5-bromo-2-nitrobenzenamine | 0.32 mmol, 100 mg | C(C1=CC=CC=C1)NC1=C(C=CC(=C1)Br)[N+](=O)[O-] | C13H11BrN2O2
reactant | 1-(piperazin-1-yl)ethanone | 0.65 mmol, 83 mg | N1(CCNCC1)C(C)=O | C6H12N2O
solvent | NMP | 1 mL | CN1CCCC1=O | C5H9NO
solvent | H2O | 15 mL | O | H2O
product | 1-(4-(3-(benzylamino)-4-nitrophenyl)piperazin-1-yl)ethanone | 0.22 mmol, 71 mg, 61% yield | C(C1=CC=CC=C1)NC=1C=C(C=CC1[N+](=O)[O-])N1CCN(CC1)C(C)=O | C19H22N4O3
